US05814631
Synthesis of 3-(4-chlorobenzenesulfonyl)-6,7-dimethoxy-2,4(1H,3H)-quinazolinedione (Compound 22)
2.36 g (10.8 mmol) of 4-chlorobenzenesulfonylisocyanate and 1.94 g (9.84 mmol) of 2-amino-4,5-dimethoxybenzoic acid were treated in the same way as in Example 1 to obtain 2.86 g of the above-identified compound (yield 73.3%). Properties: colorless crystal, Melting point: >250° C., PMR (δppm, DMSO-d6): 3.79 (3H,s), 3.84 (3H,s), 6.62 (1H,s), 7.22 (1H,s), 7.74 (2H,d), 8.15 (2H,d), 11.36 (1H,br).

reactant | 4-chlorobenzenesulfonylisocyanate | 10.8 mmol, 2.36 g | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-4,5-dimethoxybenzoic acid | 9.84 mmol, 1.94 g | NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H11NO4
product | 3-(4-chlorobenzenesulfonyl)-6,7-dimethoxy-2,4(1H,3H)-quinazolinedione | 2.86 g, yield 73.3% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=CC(=C(C=C2C1=O)OC)OC)=O | C16H13ClN2O6S
